US05965559
Using analogous procedures to those described in two of the paragraphs of the portion of Example 50 which is concerned with the preparation of starting materials, 1-tert-butoxycarbonylpiperazine was reacted with 6-chloronaphth-2-ylsulphonyl chloride to give 1-(6 -chloronaphth-2-ylsulphonyl)piperazine hydrochloride salt in 58% yield.

reactant | 1-tert-butoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 6-chloronaphth-2-ylsulphonyl chloride | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
product | 1-(6 -chloronaphth-2-ylsulphonyl)piperazine hydrochloride salt | 58% yield | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | InChI=1S/C14H15ClN2O2S.ClH/c15-13-3-1-12-10-14(4-2-11(12)9-13)20(18,19)17-7-5-16-6-8-17;/h1-4,9-10,16H,5-8H2;1H
